US08377970B2
Step-2: N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl)-3,5-difluorophenyl)-3-oxobutanamide (1 g, 2.6 mmol) and N,N-Dimethylformamide dimethylacetal (1.7 g, 14.2 mmol) were mixed and stirred at rt for overnight. Workup (AcOEt/H2O) followed by purification on 60-120 mesh silicagel using AcOEt and Peteher (1:1) as eluent afforded N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-3,5-difluorophenyl}-2-[(dimethylamino)methylene]-3-oxobutanamide (0.7 g).

reactant | N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl)-3,5-difluorophenyl)-3-oxobutanamide | 2.6 mmol, 1 g | C1(CC1)C1=CC(=NN1C1=C(C=C(C=C1F)NC(CC(C)=O)=O)F)C(F)(F)F | C17H14F5N3O2
reactant | N,N-Dimethylformamide dimethylacetal | 14.2 mmol, 1.7 g | COC(N(C)C)OC | C5H13NO2
product | N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-3,5-difluorophenyl}-2-[(dimethylamino)methylene]-3-oxobutanamide | 0.7 g | C1(CC1)C1=CC(=NN1C1=C(C=C(C=C1F)NC(C(C(C)=O)=CN(C)C)=O)F)C(F)(F)F | C20H19F5N4O2
